US04766131
To a stirred solution of N-(4-aminophenethyl)-1,2,3,4-tetrahydro-6-methoxy-1-methylisoquinoline (16.8 g, 0.057 m) in 800 ml toluene was added formic acid (25.0 g, 0.5 m). The reaction was brought to reflux, and water was collected by a Dean-Stark apparatus. After 1 hour, the reaction was poured into ice water (500 g) and basified to pH 11-12 with 10% NaOH. The toluene layer was separated, and the aqueous layer was extracted further with toluene (1×200 ml) and then with chloroform (2×200 ml). The organic extracts were combined, dried and concentrated to an oil. The oil was dissolved in 100 ml ether and a solid formed which was filtered off and dried to give N-(4-formamidophenethyl)-1,2,3,4-tetrahydro-6 -methoxy-1-methylisoquinoline, wt. 12.0 g (71%), m.p. 93°-96°.

reactant | N-(4-aminophenethyl)-1,2,3,4-tetrahydro-6-methoxy-1-methylisoquinoline | 16.8 g | NC1=CC=C(CCN2C(C3=CC=C(C=C3CC2)OC)C)C=C1 | C19H24N2O
reactant | formic acid | 25.0 g | C(=O)O | CH2O2
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-formamidophenethyl)-1,2,3,4-tetrahydro-6 -methoxy-1-methylisoquinoline | C(=O)NC1=CC=C(CCN2C(C3=CC=C(C=C3CC2)OC)C)C=C1 | C20H24N2O2
